US08420655B2
In a round bottom flask are added crude 4-bromo-N1-tert-butyl-benzene-1,2-diamine (600 mg, 2.5 mmol), bis(pinacolato)diboron (940 mg, 3.7 mmol) and KOAc (727 mg, 7.4 mmol) in 1,4-dioxane (20 mL). The solution is degassed using nitrogen for 10 minutes and then 1,1-bis(diphenylphosphino)(ferrocenedichloropalladium (II))CH2Cl2 (201 mg, 0.25 mmol) is added. The reaction mixture is stirred at 100° C. for 24 hours. The mixture is cooled to room temperature and is poured into H2O (20 mL) and extracted with EtOAc (3×25 mL). The combined organic layer is dried (MgSO4) and filtered. The filtrate is concentrated and the residue purified using silica gel flash column chromatography with 5% MeOH in CH2Cl2 as the eluent to give N1-tert-Butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzene-1,2-diamine. (290 mg, 41%)

reactant | 4-bromo-N1-tert-butyl-benzene-1,2-diamine | 2.5 mmol, 600 mg | BrC=1C=C(C(=CC1)NC(C)(C)C)N | C10H15BrN2
reactant | bis(pinacolato)diboron | 3.7 mmol, 940 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.4 mmol, 727 mg | CC(=O)[O-].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N1-tert-Butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzene-1,2-diamine | C(C)(C)(C)NC=1C(=CC(=CC1)B1OC(C(O1)(C)C)(C)C)N | C16H27BN2O2
